US05411989
trans-N-formyl-4-nitroxycyclohexylamine
trans-N-methyl-N-formyl-4-nitroxycyclohexylamine from trans-N-methyl-4-nitroxycyclohexylamine melting point: 52°-54° C. (ether/isohexane), yield: 60% of theory.

reactant | trans-N-methyl-N-formyl-4-nitroxycyclohexylamine | CN(C=O)[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C8H14N2O4
reactant | trans-N-methyl-4-nitroxycyclohexylamine | CN[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C7H14N2O3
product | trans-N-formyl-4-nitroxycyclohexylamine | yield: 60% | C(=O)N[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C7H12N2O4
